US07964725B2
3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-(6-methylsulfonylpyridin-3-yl)oxy-benzoic acid
A mixture of methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-benzoate (233 mg, 0.84 mmol), 5-bromo-2-methylsulfonyl-pyridine (CAS no. 98626-95-0) (200 mg, 0.84 mmol), cesium carbonate (549 mg, 1.69 mmol) and bromotris(triphenylphosphine)copper(I) (157 mg, 0.17 mmol) in DMA (5 mL) was stirred in a microwave reactor at 160° C. for 6 hours. Ethyl acetate (50 mL) and water were added and the aqueous layer was acidified and extracted with ethyl acetate (2×50 mL). The combined organics were washed with brine, dried (MgSO4) and reduced in vacuo to give the desired compound (0.16 g).

reactant | methyl 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-hydroxy-benzoate | 0.84 mmol, 233 mg | FC(OC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)O)F | C12H14F2O5
reactant | 5-bromo-2-methylsulfonyl-pyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
reactant | cesium carbonate | 1.69 mmol, 549 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
catalyst | bromotris(triphenylphosphine)copper(I) | 0.17 mmol, 157 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cu]Br
solvent | water | O | H2O
product | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-5-(6-methylsulfonylpyridin-3-yl)oxy-benzoic acid | 0.16 g | FC(OC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OC=1C=NC(=CC1)S(=O)(=O)C)F | C17H17F2NO7S
